US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole and Piperidine were converted to yield 6-(4-Piperidin-1-yl-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole, MS: 435 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C18H15BrF3NOS
reactant | Piperidine | N1CCCCC1 | C5H11N
product | 6-(4-Piperidin-1-yl-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | N1(CCCCC1)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H25F3N2OS
